US05719141
b) 3-[N-Tert-butoxycarbonyl-4(S)-(3-carboxy-2,2-dimethylpropyl)-2,2-dimethyl-1,3-oxazolidin-5(S)-yl]-2(R)-methyl-propionic acid (N-butyl)amide
2.9 g of 3-[3-tert-butoxycarbonyl-4(S)-(4-hydroxy-2,2-dimethylbutyl)-2,2-dimethyloxazolidin-5(S)-yl]-2(R)-methyl-propionic acid (N-butyl)amide are dissolved in 45 ml of acetonitrile and 45 ml of carbon tetrachloride and the solution is added to a solution of 8.56 g of sodium periodate and 150 mg of ruthenium(III) chloride hydrate in 85 ml of water. After 5 h, the crude product is isolated by extraction with methylene chloride. The crude product is then dissolved in 200 ml of diethyl ether and the solution is stirred with 10 g of Hyflo® and, after 30 min, filtered over Hyflo®. The filtrate is concentrated and the residue is purified by FC (100 g of silica gel, mobile phase S). The title compound is obtained: Rf (S)=0.35; Rt (II)=11.4 min; FABMS: (M+H)+ =457.

reactant | 3-[3-tert-butoxycarbonyl-4(S)-(4-hydroxy-2,2-dimethylbutyl)-2,2-dimethyloxazolidin-5(S)-yl]-2(R)-methyl-propionic acid (N-butyl)amide | 2.9 g | C(CCC)NC([C@@H](C[C@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC(CCO)(C)C)C)=O | C24H46N2O5
reactant | carbon tetrachloride | 45 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | sodium periodate | 8.56 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 45 ml | C(C)#N | C2H3N
solvent | water | 85 ml | O | H2O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
catalyst | ruthenium(III) chloride hydrate | 150 mg | O.[Ru](Cl)(Cl)Cl
product | 3-[N-Tert-butoxycarbonyl-4(S)-(3-carboxy-2,2-dimethylpropyl)-2,2-dimethyl-1,3-oxazolidin-5(S)-yl]-2(R)-methyl-propionic acid (N-butyl)amide | C(CCC)NC([C@@H](C[C@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC(CC(=O)O)(C)C)C)=O | C24H44N2O6
